US04791113
Preparation of [1aS-(1aα, 8β, 8aα, 8bβ)]-8-{[(aminocarbonyl) oxy]methyl}-4,7-dihydroxy-1,5-dimethyl-1,1a,2,8,8a,8b-hexahydro-8a-methoxy-6-nitroso-azirino [2',3': 3,4]pyrrolo [1,2-a]indole
In a similar manner to that described in Example 1, hydroxylamine hydrochloride (0.038 g), anhydrous sodium carbonate (0.033 g) and mitomycin F (0.100 g) are used to obtain the desired product (0.098 g; yield 87.0%).

reactant | hydroxylamine hydrochloride | 0.038 g | Cl.NO
reactant | sodium carbonate | 0.033 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | mitomycin F | 0.100 g | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4C)OC | C17H21N3O6
product | 8-{[(aminocarbonyl) oxy]methyl}-4,7-dihydroxy-1,5-dimethyl-1,1a,2,8,8a,8b-hexahydro-8a-methoxy-6-nitroso-azirino [2',3': 3,4]pyrrolo [1,2-a]indole | 0.098 g, yield 87.0% | NC(=O)OCC1C2(N(C=3C(=C(C(=C(C13)O)N=O)C)O)CC1C2N1C)OC | C16H20N4O6
